US09056834B2
Dimethyl zinc (117 mL, 2.0 M in toluene, 234 mmol) was added to an oven-dried and nitrogen-purged 500 mL round bottom flask with stir bar. Isobutylmagnesium bromide (103 mL, 2.0 M in ether, 206 mmol) was added over 5 min with stirring and the solution was allowed to stir at room temperature for 30 minutes. (S)-2-Methyl-propane-2-sulfinic acid 1-[2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-meth-(E)-ylideneamide (48.83 g, 137.4 mmol) was placed in an oven dried nitrogen-purged 2 L 3-necked flask with addition funnel, overhead stirring, and internal temperature. The solid was dissolved in anhydrous THF (690 mL) and cooled to −78° C. where it was a white suspension. The zincate solution was cannulated into the addition funnel and then added dropwise over 75 min to the sulfinyl imine, maintaining an internal temperature of less than −72° C. The reaction was then allowed to stir at −78° C. as a yellow solution. At 75 min, the reaction was quenched with saturated NH4Cl, adding 100 mL over 45 min, keeping the internal temperature below-70° C. A second 400 mL was then added more quickly (˜20 min), keeping the internal temperature below −47° C. Gas evolution was observed at these higher temperatures indicating perhaps a latency period. Upon adding a final 100 mL, no gas evolution was observed indicating the reaction was quenched. The cold bath was removed, another 300 mL of water was added and the reaction allowed to warm to 5° C. at which point the contents were added to an addition funnel, along with ethyl acetate and some additional water. The layers were separated and the aqueous layer extracted with three additional portions of ethyl acetate. The combined organics were dried over MgSO4. Purification was done on half the material in two batches by silica gel flash chromatography (ethyl acetate/heptane) to give (S)-2-methyl-propane-2-sulfinic acid {(S)-3-methyl-1-[2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butyl}-amide (38.83 g, 68%) as a yellow solid. 1H NMR (400 MHz, CDCl3, δ): 8.82 (s, 2H) 8.57 (d, J=8.2 Hz, 2H) 7.75 (d, J=8.4 Hz, 2H) 4.49 (q, J=7.2 Hz, 1H) 3.44 (d, J=5.7 Hz, 1H) 1.99 (dt, J=13.9, 7.3 Hz, 1H) 1.51-1.77 (m, 2H) 1.24 (s, 9H) 0.99 (d, J=6.6 Hz, 3H) 0.95 (d, J=6.4 Hz, 3H); MS (M+1): 414.3.

reactant | Dimethyl zinc | 234 mmol, 2.0 M, 117 mL | C[Zn]C
reactant | Isobutylmagnesium bromide | 206 mmol, 2.0 M, 103 mL | C(C(C)C)[Mg]Br
reactant | (S)-2-Methyl-propane-2-sulfinic acid 1-[2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-meth-(E)-ylideneamide | 137.4 mmol, 48.83 g | FC(C1=CC=C(C=C1)C1=NC=C(C=N1)\C=N\[S@@](=O)C(C)(C)C)(F)F | C16H16F3N3OS
product | (S)-2-methyl-propane-2-sulfinic acid {(S)-3-methyl-1-[2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butyl}-amide | 38.83 g, 68% | CC(C[C@@H](C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)N[S@@](=O)C(C)(C)C)C | C20H26F3N3OS
